US20010021713A1
a. (1-Phenylcyclobutyl)methylamine
To a solution of 1-phenylcyclobutanecarbonitrile (0.96 g, 6.09 mmol) in anhydrous tetrahydrofuran (40 mL) was added a 1 N solution of lithium aluminum hydride (LAH) in tetrahydrofuran (12 mL, 12 mmol). After stirring 2 h at ambient temperature, the excess LAH was slowly quenched with water (10 mL) and diluted with additional tetrahydrofuran (20 mL). This was then reacted with 0.25 N aqueous NaOH (5 mL) at ambient temperature for 20 h and filtered, the filtrate concentrated in vacuo, and the residue purified by flash coliumn chromatography (10% methanol in dichloromethane, saturated with ammonia gas) giving the title compound as a yellow oil (0.52 g, 53%). 1H NMR (300 MHz, CDCl3) δ7.32 (m, 2H), 7.19 (m, 1H), 7.10 (m, 2H), 2.93 (s, 2H), 2.38-2.26 (m, 2H), 2.18-2.01 (m, 3H), 1.92-1.82 (m, 1H), 1.14 (bs, 2H).

reactant | 1-phenylcyclobutanecarbonitrile | 6.09 mmol, 0.96 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mmol, 12 mL | O1CCCC1 | C4H8O
product | (1-Phenylcyclobutyl)methylamine | 0.52 g, 53% | C1(=CC=CC=C1)C1(CCC1)CN | C11H15N
